* File: /home/140102079/VLSI_Lab/Assignment_4_06092016/and_final.sp.pex
* Created: Sat Sep 10 12:31:51 2016
* Program "Calibre xRC"
* Version "v2013.4_37.29"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_AND_FINAL_A 5 9 18
c3 27 GND 0.0215f
c4 23 GND 0.00590457f
c5 19 GND 0.00775f
c6 18 GND 0.09027f
c7 11 GND 0.00344f
c8 9 GND 0.0561563f
c9 5 GND 0.0255403f
c10 1 GND 0.0331926f
r11 22 27 6.71231
r12 21 23 0.0451995
r13 21 22 9.6
r14 19 23 0.182667
r15 18 19 0.0526847
r16 7 11 3.26053
r17 7 9 94.9025
r18 3 11 3.26053
r19 3 5 38.885
r20 1 11 0.847354
r21 1 27 74.305
.ends

.subckt PM_AND_FINAL_B 3 7 18 27 32
c3 32 GND 0.0156231f
c4 31 GND 0.0215f
c5 27 GND 0.0146466f
c6 26 GND 0.0215f
c7 23 GND 0.0034875f
c8 22 GND 0.00775f
c9 18 GND 0.09027f
c10 14 GND 0.00279f
c11 12 GND 0.00511314f
c12 9 GND 0.0135761f
c13 7 GND 0.0292383f
c14 3 GND 0.0326783f
r15 31 39 6.71385
r16 30 32 0.0451795
r17 30 31 9.6
r18 26 35 6.71385
r19 25 27 0.0451795
r20 25 26 9.6
r21 18 22 0.0535007
r22 16 23 0.0338756
r23 16 32 0.514667
r24 14 27 0.486667
r25 12 23 0.00880368
r26 11 14 0.0446983
r27 11 12 0.146667
r28 9 23 0.0338756
r29 9 22 0.389333
r30 7 39 34.65
r31 3 35 54.8625
.ends

.subckt PM_AND_FINAL_3 3 7 11 15 19 25 52 57 70 71 73
c7 61 GND 0.0180411f
c8 60 GND 0.07434f
c9 59 GND 0.00775f
c10 57 GND 0.00362607f
c11 56 GND 0.0215f
c12 52 GND 0.0215f
c13 49 GND 0.00372f
c14 48 GND 0.0215f
c15 42 GND 0.06372f
c16 41 GND 0.01395f
c17 36 GND 0.00496f
c18 30 GND 0.00376557f
c19 28 GND 0.00418407f
c20 26 GND 0.00279f
c21 25 GND 0.0106476f
c22 24 GND 0.00395064f
c23 22 GND 0.292226f
c24 20 GND 0.03321f
c25 19 GND 0.424512f
c26 18 GND 0.0431619f
c27 15 GND 0.0441163f
c28 11 GND 0.0324203f
c29 7 GND 0.0303563f
c30 3 GND 0.0177143f
r31 60 80 0.0461131
r32 59 61 0.0527007
r33 59 60 4.29
r34 56 69 6.71385
r35 56 68 6.71385
r36 55 57 0.0451795
r37 55 56 9.6
r38 51 52 9.6
r39 47 48 9.6
r40 45 70 2.04545
r41 45 71 2.04545
r42 44 45 5.4
r43 42 77 0.0461131
r44 41 44 0.0551111
r45 41 42 4.29
r46 37 73 4.75708
r47 36 39 0.0451795
r48 36 37 10.4
r49 34 55 0.0451795
r50 34 61 0.530667
r51 32 49 0.00880368
r52 32 57 0.117333
r53 30 51 0.0451795
r54 29 49 0.0338756
r55 29 30 0.121333
r56 28 49 0.0338756
r57 27 47 0.0220732
r58 27 28 0.133333
r59 25 47 0.0226251
r60 25 26 0.425333
r61 24 26 0.0446983
r62 24 39 0.113333
r63 22 80 0.616
r64 19 22 0.039111
r65 19 20 0.964833
r66 18 20 0.039111
r67 18 77 0.151667
r68 15 69 67.9525
r69 11 68 54.285
r70 5 52 6.71385
r71 5 7 37.1525
r72 1 48 6.71385
r73 1 3 21.3675
.ends

.subckt PM_AND_FINAL_OUT 25 26 28 29 34 37 38
c3 38 GND 0.09802f
c4 37 GND 0.416763f
c5 34 GND 0.179557f
c6 22 GND 0.06372f
c7 21 GND 0.01395f
c8 13 GND 0.09027f
c9 9 GND 0.00775f
c10 7 GND 0.01728f
c11 2 GND 0.0470254f
r12 37 38 0.0461131
r13 24 25 2.04545
r14 24 26 2.04545
r15 22 34 0.0461131
r16 21 24 5.4
r17 21 22 4.29
r18 10 28 4.80215
r19 10 29 4.80215
r20 9 13 4.29
r21 9 10 10.4
r22 6 7 0.00770322
r23 6 37 0.925167
r24 3 7 0.0296412
r25 3 34 0.579833
r26 2 7 0.0296412
r27 1 13 0.0461131
r28 1 2 0.0991667
.ends

.subckt PM_AND_FINAL_GND 1 19 30 31 33
c0 24 GND 0.00496f
c1 22 GND 0.0155f
c2 19 GND 0.0413819f
c3 16 GND 0.00469464f
c4 14 GND 0.00496f
c5 12 GND 0.00887964f
c6 9 GND 0.00585714f
c7 7 GND 0.0206088f
r8 25 33 4.75842
r9 24 25 10.4
r10 15 30 4.80215
r11 15 31 4.80215
r12 14 16 0.0451795
r13 14 15 10.4
r14 12 24 0.0451795
r15 11 12 0.254667
r16 9 11 0.0446983
r17 9 22 0.088
r18 8 19 0.0114292
r19 7 22 0.0651919
r20 7 8 0.0532
r21 5 19 0.0385677
r22 5 16 0.134667
r23 1 19 10.8
.ends

.subckt PM_AND_FINAL_VDD 1 14 22 35 45 48 49 51
c2 39 GND 0.0124f
c3 38 GND 0.0155f
c4 35 GND 0.0093f
c5 33 GND 0.00248f
c6 31 GND 0.00991876f
c7 29 GND 0.0121346f
c8 23 GND 0.0124f
c9 22 GND 0.0182726f
c10 19 GND 0.00655464f
c11 17 GND 0.0124136f
c12 15 GND 0.0167338f
c13 14 GND 0.0113906f
c14 10 GND 0.0155f
c15 9 GND 0.0204538f
c16 8 GND 0.00279f
c17 6 GND 0.00279f
c18 5 GND 0.00776364f
c19 4 GND 0.0187841f
r20 43 51 2.04545
r21 42 43 5.4
r22 39 42 0.061
r23 32 48 2.04545
r24 32 49 2.04545
r25 31 33 0.0451795
r26 31 32 5.4
r27 27 45 2.04477
r28 26 27 5.4
r29 23 26 0.063
r30 21 22 0.524
r31 20 39 0.0158951
r32 19 21 0.0446983
r33 19 20 0.108
r34 17 22 0.0446983
r35 17 38 0.276
r36 16 35 0.0114292
r37 15 38 0.0627295
r38 15 16 0.0432
r39 14 35 0.0385677
r40 14 33 0.326667
r41 10 29 0.0643792
r42 9 35 0.0114292
r43 9 10 0.0528
r44 8 29 0.348
r45 5 23 0.0158951
r46 5 6 0.222667
r47 4 8 0.0446983
r48 3 6 0.0446983
r49 3 4 0.538667
r50 1 35 10.4
.ends

.subckt PM_AND_FINAL_7 1 2
r0 1 2 5.86667
.ends

